US05817691
Preparation of 3-chloro-5-(p-chlorophenyl)-4-(phenylsulfonyl)-2-(trifluoromethyl)pyrrole
A mixture of 3-chloro-5-(p-chlorophenyl)-4-(phenylsulfinyl)-2-(trifluoromethyl)pyrrole (0.335 g, 0.83 mmol) and 30% hydrogen peroxide solution (0.28 mL, 2.49 mmol) in acetic acid is stirred at 50° C. for 7 hours, cooled and poured into an ice-water mixture. The resultant aqueous mixture is filtered to obtain a solid which is washed with water and dried to give the title product as a colorless solid (mp 158°-161° C.).

reactant | 3-chloro-5-(p-chlorophenyl)-4-(phenylsulfinyl)-2-(trifluoromethyl)pyrrole | 0.83 mmol, 0.335 g | ClC1=C(NC(=C1S(=O)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)C(F)(F)F | C17H10Cl2F3NOS
reactant | hydrogen peroxide | 2.49 mmol, 0.28 mL | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-chloro-5-(p-chlorophenyl)-4-(phenylsulfonyl)-2-(trifluoromethyl)pyrrole | ClC1=C(NC(=C1S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)C(F)(F)F | C17H10Cl2F3NO2S
